US04011340
An ice solution of 127.5 g (0.5 mole) of α-bromo-4-pivaloyl toluene in 600 ml. of chloroform is added dropwise to 77.0 g (0.55 mole) of hexamethylene tetramine in 550 ml. chloroform. The resulting mixture is stirred for 2 days at room temperature and the solvent evaporated in vacuo. The residue is treated with ether and the resulting solid filtered and washed thoroughly with ether to give a white solid, 1-(4-pivaloylbenzyl)-3,5,7-triaza-1-azonia-adamantane bromide. The resulting solid is suspended in 300 ml. of 6N hydrochloric acid and steam distilled until no more formaldehyde is evolved. The distillation residue is poured onto ice and 180 ml. of 50% sodium hydroxide. The basic solution is extracted with ether and the ether is washed with water, brine and dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue is dissolved in ethanol and treated with ether/hydrochloric acid to give 4-pivaloyl benzylamine hydrochloride, m.p. 222° C. to 225° C.

reactant | α-bromo-4-pivaloyl toluene | 0.5 mole, 127.5 g | BrCC1=CC=C(C=C1)C(C(C)(C)C)=O | C12H15BrO
reactant | hexamethylene tetramine | 0.55 mole, 77.0 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-pivaloylbenzyl)-3,5,7-triaza-1-azonia-adamantane bromide | [Br-].C(C(C)(C)C)(=O)C1=CC=C(C[N+]23CN4CN(CN(C2)C4)C3)C=C1 | InChI=1S/C18H27N4O.BrH/c1-18(2,3)17(23)16-6-4-15(5-7-16)8-22-12-19-9-20(13-22)11-21(10-19)14-22;/h4-7H,8-14H2,1-3H3;1H/q+1;/p-1
